US03952013
A mixture of 9 parts of ethyl 6-hydroxy-1-thiachromone-2-carboxylate, 15 parts of isoamyl bromide and 14 parts of anhydrous potassium carbonate in 130 parts of acetone was stirred and heated under reflux for 18 hours. Insoluble material was then filtered off and washed with acetone and the total acetone solution was evaporated to leave a yellow solid, which was crystallized from ethanol to give 4.1 parts of ethyl 6-(3-methylbutoxy)-1-thiachromone-2-carboxylate, melting point 83°-84°C. This entire product was heated under reflux for 2 hours with a solution of 1.5 parts of sodium bicarbonate in 35 parts of water and 25 parts of methanol. The methanol was then boiled off and the solution was diluted with 70 parts of water. The aqueous solution was thoroughly washed with ether, filtered then acidified with concentrated hydrochloric acid. A precipitate was obtained which was filtered off, washed with water and dried, then extracted with boiling benzene. The product was then filtered off and dried to leave 3.95 parts of 6-(3-methylbutoxy)-1-thiachromone-2-carboxylic acid, melting point 208°-209°C.

reactant | ethyl 6-hydroxy-1-thiachromone-2-carboxylate | OC=1C=C2C(C=C(SC2=CC1)C(=O)OCC)=O | C12H10O4S
reactant | isoamyl bromide | C(CC(C)C)Br | C5H11Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 6-(3-methylbutoxy)-1-thiachromone-2-carboxylate | CC(CCOC=1C=C2C(C=C(SC2=CC1)C(=O)OCC)=O)C | C17H20O4S
